US09422271B2
A mixture of N-(2-aminoethyl)-5-bromothiophene-2-sulfonamide (2.5 g, 8.77 mmol, 1.0 eq) and DIPEA (3.4 g, 26.3 mmol, 3.0 eq) in CH2Cl2 (100 mL) was stirred at 0° C., pivaloyl chloride (2.1 g, 17.5 mmol, 2 equiv.) was added drop-wise. Then, the mixture was stirred at 0° C. for 0.5 h. Water was added and the reaction was extracted with EA (3×80 ml). The combined organic layers were dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (PE/EA=10:1 as eluant) to afford N-(2-(5-bromothiophene-2-sulfonamido)ethyl)pivalamide (3.07 g, 95.0%). LC-MS (m/z)=368.9 [M+H]+.

reactant | N-(2-aminoethyl)-5-bromothiophene-2-sulfonamide | 8.77 mmol, 2.5 g, 1.0 eq | NCCNS(=O)(=O)C=1SC(=CC1)Br | C6H9BrN2O2S2
reactant | DIPEA | 26.3 mmol, 3.4 g, 3.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | pivaloyl chloride | 17.5 mmol, 2.1 g, 2 equiv. | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(5-bromothiophene-2-sulfonamido)ethyl)pivalamide | 3.07 g, 95.0% | BrC1=CC=C(S1)S(=O)(=O)NCCNC(C(C)(C)C)=O | C11H17BrN2O3S2
